US05068334
3-Methyl-7,7-dimethyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example G from 1-amino- 5,5-dimethylcyclohexen-3-one and methacrylic acid in an autoclave at 180° C. over a period of one hour.

reactant | 1-amino- 5,5-dimethylcyclohexen-3-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | 3-Methyl-7,7-dimethyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | CC1C(NC=2CC(CC(C2C1)=O)(C)C)=O | C12H17NO2
